US08378104B2
Step B: 4-{4-[7-amino-2-(1-benzothiophen-7-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}Piperidine (Title Compound)
A solution of tert-butyl 4-{4-[7-amino-2-(1-benzothiophen-7-yl)furo[2,3-c]pyridine-4-yl]-1H-pyrazol-1-yl}piperidine-1-carboxylate in DCM (1.50 mL) was treated with HCl (1 M in Et2O, 5.00 mL, 5.00 mmol) and stirred for 30 min. The reaction was concentrated in vacuo to afford 86 mg (71%) of the title compound. 1H NMR (400 MHz, CD3OD) δ 7.08 (s, 1 H), 7.00 (d, J=7.58 Hz, 1 H), 6.82 (d, J=7.83 Hz, 1 H), 6.79 (s, 1 H), 6.59 (s, 1 H), 6.50-6.54 (m, 2 H), 6.36 (t, J=7.71 Hz, 1 H), 6.32 (d, J=5.56 Hz, 1 H), 3.39-3.52 (m, 1 H), 2.36 (d, J=13.14 Hz, 2 H), 1.96-2.02 (m, 2 H), 1.09-1.19 (m, 4 H); MS (ESI): 416.12 [M+H]+; HPLC tR=2.19 min.

reactant | tert-butyl 4-{4-[7-amino-2-(1-benzothiophen-7-yl)furo[2,3-c]pyridine-4-yl]-1H-pyrazol-1-yl}piperidine-1-carboxylate | NC=1N=CC(=C2C1OC(=C2)C2=CC=CC=1C=CSC12)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C28H29N5O3S
reactant | HCl | 5.00 mmol, 1 M, 5.00 mL | Cl | ClH
solvent | DCM | 1.50 mL | C(Cl)Cl | CH2Cl2
product | 4-{4-[7-amino-2-(1-benzothiophen-7-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}Piperidine | 86 mg, 71% | NC=1N=CC(=C2C1OC(=C2)C2=CC=CC=1C=CSC12)C=1C=NN(C1)C1CCNCC1 | C23H21N5OS
